US08309542B2
(a) 2-methoxy-N-(2-thiophen-3-yl-ethyl)-acetamide
10.0 g (78.6 mmol) 2-thiophen-3-yl-ethylamine are dissolved in 120 ml THF and at −10° C. combined successively with 7.9 ml (86.5 mmol) methoxyacetic acid chloride and a solution of 21.9 ml (157.2 mmol) triethylamine in 30 ml THF. The mixture is heated to RT and stirred for one hour. Then it is acidified with 2N hydrochloric acid and the mixture is extracted three times with ethyl acetate. The combined organic phases are dried on sodium sulphate, filtered and evaporated down i. vac.

reactant | 2-thiophen-3-yl-ethylamine | 78.6 mmol, 10.0 g | S1C=C(C=C1)CCN | C6H9NS
reactant | methoxyacetic acid chloride | 86.5 mmol, 7.9 ml | COCC(=O)Cl | C3H5ClO2
reactant | triethylamine | 157.2 mmol, 21.9 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-methoxy-N-(2-thiophen-3-yl-ethyl)-acetamide | COCC(=O)NCCC1=CSC=C1 | C9H13NO2S
